US07273878B2
To 5 ml of N,N-dimethylformamide were dissolved 0.39 g (2.0 mmol) of 6-butoxynicotinic acid, synthesized by a method in accordance with one used in Intermediate Production Example 1, and 0.40 g (2.0 mmol) of 4,4-difluoro-3-methyl-3-butenyl methanesulfonate, followed by the addition of 0.34 g (4.0 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (diisopropyl ether:hexane=1:7) to obtain 0.45 g (yield: 75%) of 4,4-difluoro-3-methyl-3-butenyl 6-butoxynicotinate.

reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 6-butoxynicotinic acid | 2.0 mmol, 0.39 g | C(CCC)OC1=NC=C(C(=O)O)C=C1 | C10H13NO3
reactant | 4,4-difluoro-3-methyl-3-butenyl methanesulfonate | 2.0 mmol, 0.40 g | CS(=O)(=O)OCCC(=C(F)F)C | C6H10F2O3S
reactant | sodium hydrogencarbonate | 4.0 mmol, 0.34 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl 6-butoxynicotinate | 0.45 g, yield: 75% | C(CCC)OC1=NC=C(C(=O)OCCC(=C(F)F)C)C=C1 | C15H19F2NO3
